US08183289B2
To 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoic acid (0.34 g, 0.962 mmol), 2-(4-chlorophenyl)ethanamine (0.165 g, 1.06 mmol) in DMF (5 ml) was added diisopropylamine (0.200 ml, 1.15 mmol) and HBTU (0.149 g, 1.15 mmol). The reaction was stirred at ambient temperature for 90 minutes. The reaction was diluted with water and the product extracted into ethyl acetate. The combined organic layers were dried (MgSO4), filtered and concentrated to give tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate (0.40 g, 85%) as a white solid after column chromatography.

reactant | 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoic acid | 0.962 mmol, 0.34 g | C(C)(C)(C)OC(CC1=CC(=C(OC2=CC=C(C(=O)O)C=C2)C=C1)C#N)=O | C20H19NO5
reactant | 2-(4-chlorophenyl)ethanamine | 1.06 mmol, 0.165 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | diisopropylamine | 1.15 mmol, 0.200 ml | C(C)(C)NC(C)C | C6H15N
reactant | HBTU | 1.15 mmol, 0.149 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate | 0.40 g, 85% | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)C#N)C=C2)C=C1 | C28H27ClN2O4
